US06951888B2
(c) 4-{2-[1,1-dimethyl-2-phenylethylamino]-1-hydroxyethyl}-3-methoxybenzene-1,2-diol
10 g of 1-(3,4-dihydroxy-2-methoxyphenyl)-2-(1,1-dimethyl-2-phenylethylamino)ethanone hydrochloride is hydrogenated with 0.5 g of platinum(IV) oxide in 200 mL methanol. The catalyst is suction filtered and the solvent is distilled off under reduced pressure. The residue remaining is dissolved in 200 mL acetonitrile, combined with 5 g of sodium benzoate and refluxed for 15 minutes. After the excess sodium benzoate has been filtered off, the product which crystallizes out of the filtrate is filtered off and washed with acetonitrile and diethyl ether. Yield: 64.5% (benzoate); melting point: 149° C.-150° C.

reactant | 1-(3,4-dihydroxy-2-methoxyphenyl)-2-(1,1-dimethyl-2-phenylethylamino)ethanone hydrochloride | 10 g | Cl.OC=1C(=C(C=CC1O)C(CNC(CC1=CC=CC=C1)(C)C)=O)OC
solvent | methanol | 200 mL | CO | CH4O
catalyst | platinum(IV) oxide | 0.5 g | [Pt](=O)=O
product | 4-{2-[1,1-dimethyl-2-phenylethylamino]-1-hydroxyethyl}-3-methoxybenzene-1,2-diol | Yield: 64.5% | CC(CC1=CC=CC=C1)(C)NCC(O)C=1C(=C(C(=CC1)O)O)OC | C19H25NO4
